US09260427B2
Prepared using General Procedure 16: To a stirred solution of 5-bromo-2-chloro-4-methoxypyrimidine (100 mg, 0.447 mmol) in 57% aq. HI (1.0 mL) was added sodium iodide (125 mg, 0.838 mmol). The reaction mixture was stirred at 40° C. for 16 h, cooled, then quenched with NaHCO3 (5 mL) and extracted with EA (3×5 mL). The combined organics were washed with brine, dried over MgSO4 and concentrated to afford 22.0 mg (16%) of 5-bromo-2-iodo-4-methoxypyrimidine as an off-white solid. LCMS-ESI (m/z) calculated for C5H4BrIN2O: 314.9. found 315.9 [M+H]+, tR=8.22 min. (Method 2). 1H NMR (400 MHz, DMSO) δ 8.25 (s, 1H), 4.07 (s, 3H).

reactant | 5-bromo-2-chloro-4-methoxypyrimidine | 0.447 mmol, 100 mg | BrC=1C(=NC(=NC1)Cl)OC | C5H4BrClN2O
reactant | sodium iodide | 0.838 mmol, 125 mg | [I-].[Na+]
solvent | HI | 1.0 mL | I | HI
product | 5-bromo-2-iodo-4-methoxypyrimidine | 22.0 mg, 16% | BrC=1C(=NC(=NC1)I)OC | C5H4BrIN2O
